US09315521B2
To a solution of [4-(propan-2-yl)-1,3-thiazol-5-yl]methanol (800 mg, 5.1 mmol) in anhydrous dichloromethane (35 mL) was added tribromophosphane (520 μL, 5.5 mmol). The mixture was stirred at room temperature for 1.5 hours. Dichloromethane was evaporated. The residue was dried in vacuo, affording 5-(bromomethyl)-4-(propan-2-yl)-1,3-thiazole. The crude product was used without further purification.

reactant | [4-(propan-2-yl)-1,3-thiazol-5-yl]methanol | 5.1 mmol, 800 mg | CC(C)C=1N=CSC1CO | C7H11NOS
reactant | tribromophosphane | 5.5 mmol, 520 μL | BrP(Br)Br | Br3P
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | 5-(bromomethyl)-4-(propan-2-yl)-1,3-thiazole | BrCC1=C(N=CS1)C(C)C | C7H10BrNS
